US06727264B1
2-METHYL-N-[3-(1-{3-[3-(TRIFLUOROMETHYL)PHENOXY]BENZYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-[3-(trifluoromethyl)phenoxy]benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 497.2 (M+H)+.

reactant | 3-[3-(trifluoromethyl)phenoxy]benzaldehyde | FC(C=1C=C(OC=2C=C(C=O)C=CC2)C=CC1)(F)F | C14H9F3O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-[3-(1-{3-[3-(TRIFLUOROMETHYL)PHENOXY]BENZYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC(=CC=C1)OC1=CC(=CC=C1)C(F)(F)F)C | C29H31F3N2O2
